US08492405B2
To a solution (50 mL) of sodium ethoxide (5.4 g) in ethanol was added dropwise a mixture of 1-benzyl-2-methyl-1H-imidazole-4-carbaldehyde (3.8 g) and ethyl azidoacetate (10.3 g) under ice-cooling. After the completion of the dropwise addition, the mixture was stirred for 1 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was concentrated. The obtained residue was extracted with ethyl acetate. The ethyl acetate layer was is washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was dissolved in toluene (50 mL), and the mixture was stirred at 110° C. for 2 hr. The reaction mixture was concentrated, and the residue was subjected to silica gel column chromatography to give ethyl 3-benzyl-2-methyl-3,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylate (0.35 g, yield 6.5%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). melting point 193° C.

reactant | sodium ethoxide | 50 mL, 5.4 g | [O-]CC.[Na+]
reactant | 1-benzyl-2-methyl-1H-imidazole-4-carbaldehyde | 3.8 g | C(C1=CC=CC=C1)N1C(=NC(=C1)C=O)C | C12H12N2O
reactant | ethyl azidoacetate | 10.3 g | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 3-benzyl-2-methyl-3,4-dihydropyrrolo[2,3-d]imidazole-5-carboxylate | 0.35 g, yield 6.5% | C(C1=CC=CC=C1)N1C(=NC2=C1NC(=C2)C(=O)OCC)C | C16H17N3O2
